US04246268
To a stirred suspension of 4.4 g (0.01 mole) of 4-[4-(6-chloro-2-naphthoyl)-1-piperidyl]-1-(4-fluorophenyl)-1-butanone in 100 ml of absolute ethanol at 50° C. is gradually added 1.9 g (0.05 mole) sodium borohydride. Stirring is continued at 50° for one hour after the addition is completed and 20 ml of 3 N hydrochloric acid is added slowly. The mixture is diluted to 400 ml with water, made basic with sodium hydroxide, and extracted with chloroform. The organic phase is dried over MgSO4, concentrated in vacuo and recrystallized to yield α-(4-fluorophenyl)-4-[(6-chloro-2-naphthyl)hydroxymethyl]-1-piperidinebutanol.

reactant | 4-[4-(6-chloro-2-naphthoyl)-1-piperidyl]-1-(4-fluorophenyl)-1-butanone | 0.01 mole, 4.4 g | ClC=1C=C2C=CC(=CC2=CC1)C(=O)C1CCN(CC1)CCCC(=O)C1=CC=C(C=C1)F | C26H25ClFNO2
reactant | sodium borohydride | 0.05 mole, 1.9 g | [BH4-].[Na+]
reactant | hydrochloric acid | 3 N, 20 ml | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | α-(4-fluorophenyl)-4-[(6-chloro-2-naphthyl)hydroxymethyl]-1-piperidinebutanol | FC1=CC=C(C=C1)C(CCCN1CCC(CC1)C(O)C1=CC2=CC=C(C=C2C=C1)Cl)O | C26H29ClFNO2
